US04022833
In a manner similar to that of Example 1, condensation of 1-dodecene oxide (100 g.) and ethylenediamine (16.3 g.) and recrystallization of part (20 g.) of the resulting product (55.3 g.) from methanol gave N,N'-ethylenebis[2-hydroxydodecylamine] (I: R= CH3 (CH2)9, R' = H, X= (CH2)2, Z= H) (13.4 g., m.p. 137.0°-142.0° C.).

reactant | 1-dodecene oxide | 100 g | C1C(CCCCCCCCCC)O1 | C12H24O
reactant | ethylenediamine | 16.3 g | C(CN)N | C2H8N2
solvent | methanol | CO | CH4O
product | N,N'-ethylenebis[2-hydroxydodecylamine] | C(CNCC(CCCCCCCCCC)O)NCC(CCCCCCCCCC)O | C26H56N2O2
